2106-04-13 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2106-4-13**] 05:25 AM
 FEVER - 101.8
F - [**2106-4-12**] 05:45 PM
   - VTach overnight
   - started amiodarone gtt
   - febrile with rigors
   - needed neo for pressor support, total ~4L IVFs
   - CVL and a-line placed
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfonamides
   possible hematu
   Wellbutrin (Oral) (Bupropion Hcl)
   "seizure";
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-12**] 08:44 PM
   Piperacillin - [**2106-4-13**] 12:27 AM
   Infusions:
   Amiodarone - 1 mg/min
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Amiodarone - [**2106-4-13**] 03:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.5
C (101.3
   HR: 76 (75 - 146) bpm
   BP: 97/60(71) {97/53(-1) - 111/60(71)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: -1 (-1 - -1)mmHg
   Total In:
                                                                  2,896 mL
                                                                  2,131 mL
   PO:
                                                                    125 mL
                                                                    125 mL
   TF:
   IVF:
                                                                  1,471 mL
                                                                  2,006 mL
   Blood products:
   Total out:
                                                                    633 mL
                                                                    775 mL
   Urine:
                                                                    183 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,263 mL
                                                                  1,356 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.35/37/237/20/-4
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   B bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: R dorsum of hand with erythematous patch; L
   antecubital with the same
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   13.1 g/dL
   141 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.7 mEq/L
   20 mg/dL
   103 mEq/L
   133 mEq/L
   40
   12.4 K/uL
        [image002.jpg]
                             [**2106-4-12**]  06:15 PM
                             [**2106-4-13**]  01:28 AM
                             [**2106-4-13**]  03:54 AM
   WBC
   7.1
   12.4
   Hct
   36.6
   38.1
   40
   Plt
   108
   112
   Cr
   1.6
   1.8
   TCO2
   21
   Glucose
   122
   156
   141
   Other labs: PT / PTT / INR:15.1/29.7/1.3, ALT / AST:15/28, Alk Phos / T
   Bili:63/0.8, Lactic Acid:2.9 mmol/L, LDH:304 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CARDIAC DYSRHYTHMIA OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RASH
   64 y/o M with hx of CHF, afib, aflutter, s/p PPM for SSS, RCC on chemo
   with Bevacizumab / Temsirolimus who presented with probably VT arrest
   who is transferred to the MICU for fevers and rash and presumed sepsis.
   .
   # Sepsis: patient transferred with fevers, tachycardia and hypotension,
   likely sepsis from a cellulitis.  Was febrile to 104 most of day
   today.  Has received 1750 cc of fluid total so far with a decrease in
   his HR but BP dropping.
   - IVFs PRN with 250 cc boluses for MAP <60
   - trend lactates, CVPs in CVL placed
   - Continue abx with vanco/zosyn/clinda as discussed below
   - F/U cultures
 trend daily BCx
   - ID consult to discuss management
   - Will request read of TTE for ? vegetation; consider TEE
   # Fevers: most obvious cause is the new rash which is likely
   cellulitis.  Strange that it is [**Last Name (LF) 12001**], [**First Name3 (LF) **] could be a systemic
   bacteremia that is manifesting itself at the venopuncture sites.  No
   central lines or ports, but does have a PPM in place, although not
   recently manipulated.  No other skin tears or rashes that could be
   niduses of infection.  UA normal and CXR without infiltrate.  Abdominal
   exam benign but does have hx of chronic diarrhea.
   - vanco/zosyn for now
   - ID consults today
   - tylenol PRN
   .
   # Rash: unclear etiology, looks like sepsis but could be secondary to
   microvascular thrombotic events, chemotherapy reactions, latex allergic
   reactions or other unclear reasons.  Has been outlined. Improving based
   on outlined margins as well as symptomatically per patient.
   - abx as above
   - continue to follow clinically
   - consider derm if not improving
   # Vtach: stable VTach overnight for about 10 minutes.  Long-term will
   likely need EP study.
   - EP re-consult today
   - continue amio load
   - telemetrey, replace lytes as needed
   - keep chest pads in place in case of recurrence
   .
   # Syncope: unclear etiology, but ? VT arrest vs. other cardiogenic
   cause.  Did have an echo today and was going to go to an EP study, but
   deferred because of infection.
   - EP recs
   - consider study when stable
   - avoid pressors with B1 agonist if possible
   .
   # CHF: has EF of about 25% based on echo today.  Has new O2 requirement
   after being given IVFs.  Is stable with his breathing, though, no
   admission to the ICU.
   - continue to monitor respiratory status
   - avoid diuresis at this time
   .
   # RCC: is stable per old onc recs; currently under treatment and due
   for next dosing today.
   - hold on chemo given infection
   - Touch base with Dr. [**Last Name (STitle) **] of oncology/onc fellow re: next cycle of
   chemo (due today)
   .
   # Afib/flutter: has hx of aflutter and was anticoagulated.  Stable in
   NSR at this time.  Has pacer for sick sinus syndrome.
   - hold anticoagulation at this time given possible need for procedure
   .
   # HTN: hypotensive given sepsis.
   - hold antihypertensive.
   .
   # Hyperthryroidism: cont levothyroxine
   .
   # Hyperlipidemia: cont statin and gemfibrizol
   .
   # Depression: cont SSRI, mirtazapine, ambien PRN
   .
   # FEN: No IVF, replete electrolytes, advance diet today
   # Prophylaxis: Pneumoboots, SQ heparin
   # Access: peripherals x3, CVL, arterial line
   # Communication: Patient
   # Code:  Full (discussed with patient), ICU consent signed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-4-12**] 08:39 PM
   Arterial Line - [**2106-4-13**] 05:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-04-14 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vtach again overnight.  Episode lasting 10 minutes.  Off of pressors as
   of 1900, then hypertensive into the 190-210s SBPs.  Discussed with EP,
   patient transiently received lidocaine at 2mg/min that was then
   titrated down and off over the course of 6 hours.  Was ordered for
   esmolol drip and titrated for SBP < 155.
   Did not get esmolol drip. Hypotesnive again around 1am. Bolused.
   Allergies:
   Sulfonamides
   possible hematu
   Wellbutrin (Oral) (Bupropion Hcl)
   "seizure";
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2106-4-13**] 04:25 PM
   Vancomycin - [**2106-4-13**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-14**] 12:10 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2106-4-13**] 12:36 PM
   Heparin Sodium (Prophylaxis) - [**2106-4-14**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-14**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 35.6
C (96
   HR: 71 (68 - 166) bpm
   BP: 125/69(88) {77/43(54) - 209/104(134)} mmHg
   RR: 29 (15 - 30) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: 7 (1 - 11)mmHg
   Total In:
                                                                  4,936 mL
                                                                  1,856 mL
   PO:
                                                                  1,125 mL
   TF:
   IVF:
                                                                  3,811 mL
                                                                  1,856 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                  2,065 mL
   Urine:
                                                                  2,295 mL
                                                                  2,065 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,641 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.37/40/123/19/-1
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no edema, areas of erythema
   improving on UE
   Labs / Radiology
   74 K/uL
   10.9 g/dL
   132 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.2 mEq/L
   20 mg/dL
   104 mEq/L
   132 mEq/L
   33.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2106-4-12**]  06:15 PM
                             [**2106-4-13**]  01:28 AM
                             [**2106-4-13**]  03:54 AM
                             [**2106-4-13**]  07:22 AM
                             [**2106-4-13**]  07:39 AM
                             [**2106-4-13**]  05:33 PM
                             [**2106-4-14**]  02:11 AM
   WBC
   7.1
   12.4
   10.4
   6.9
   Hct
   36.6
   38.1
   40
   35.2
   33.3
   Plt
   108
   112
   113
   74
   Cr
   1.6
   1.8
   1.6
   1.6
   TCO2
   21
   23
   24
   Glucose
   122
   156
   141
   138
   132
   Other labs: PT / PTT / INR:14.6/42.1/1.3, ALT / AST:33/74, Alk Phos / T
   Bili:46/0.5, Differential-Neuts:88.0 %, Lymph:8.2 %, Mono:3.0 %,
   Eos:0.5 %, Lactic Acid:0.9 mmol/L, LDH:304 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   64 y/o M with hx of CHF, afib, aflutter, s/p PPM for SSS, RCC on chemo
   with Bevacizumab / Temsirolimus who presented with probable VT arrest
   who is transferred to the MICU for fevers and rash and presumed sepsis
   with hospital course complicated by episodes of sustained VT.
   .
   # Sepsis: patient transferred with fevers, tachycardia and hypotension,
   likely sepsis from a cellulitis.  Was febrile to 104 most of day
   today.  Has received 1750 cc of fluid total so far with a decrease in
   his HR but BP dropping.  TEE negative for involvement of heart of PPM
   leads.  If persistently febrile consider involvement of spine hardware,
   PPM, deep tissue infection in hand.
   - IVFs PRN with 250 cc boluses for MAP <60
   - trend lactates, CVPs in CVL placed
   - d/c vancomycin/zosyn and start nafcillin
   - F/U results of daily cultures
   - ID consult to discuss management
   # Vtach:  Patient with intermittent episodes of sustained ventricular
   tachycardia, hemodynamically stable
   - monitor on telemetry
   - F/U EP recs
   - Start PO amiodarone
   - consider PO metoprolol in future if pressures can tolerate
   - keep chest pads in place in case of recurrence
   # Fevers: most obvious cause is the new rash which is likely
   cellulitis. [**4-12**] blood cultures growing MSSA.  Strange that it is
   bilateral, so could be a systemic bacteremia that is manifesting itself
   at the venopuncture sites.  No central lines or ports, but does have a
   PPM in place, although not recently manipulated.  UA normal and CXR
   without infiltrate.  If persistently febrile consider involvement of
   spine hardware, PPM, deep tissue infection in hand.
   - change antibiotics as above
   - F/U ID recs
   - tylenol PRN
   .
   # Syncope: unclear etiology, but ? VT arrest vs. other cardiogenic
   cause.  Did have an echo today and was going to go to an EP study, but
   deferred because of infection.
   - reevaluate echo from two days ago for possible beg
   - EP recs
   - consider study when stable
   - avoid pressors with B1 agonist if possible
   .
   #Rash:  Hand cellulitis improving, monitor clinically
   # CHF: has EF of about 25% based on echo today.  Has new O2 requirement
   after being given IVFs.  Is stable with his breathing, though, no
   admission to the ICU.
   - continue to monitor respiratory status
   - avoid diuresis at this time
   .
   # RCC: is stable per old onc recs; currently under treatment and due
   for next dosing today.
   - hold on chemo given infection
   - Touch base with Dr. [**Last Name (STitle) **] of oncology/onc fellow re: next cycle of
   chemo (due today)
   .
   # Afib/flutter: has hx of aflutter and was anticoagulated.  Stable in
   NSR at this time.  Has pacer for sick sinus syndrome.
   - hold anticoagulation at this time given possible need for procedure
   .
   # HTN: hypotensive given sepsis.
   - hold antihypertensive.
   .
   # Hyperthryroidism: cont levothyroxine
   .
   # Hyperlipidemia: cont statin and gemfibrizol
   .
   # Depression: cont SSRI, mirtazapine, ambien PRN
   .
   # FEN: No IVF, replete electrolytes, advance diet today
   # Prophylaxis: Pneumoboots, SQ heparin
   # Access: peripherals x3, CVL, arterial line
   # Communication: Patient
   # Code:  Full (discussed with patient), ICU consent signed
   # Disposition: ICU for the next 24 hours then re-evaluate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-4-12**] 08:39 PM
   Arterial Line - [**2106-4-13**] 05:25 AM
   Multi Lumen - [**2106-4-13**] 09:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: